US07700634B2
(R)-3-cyclohexyl-3,4-dihydro-2H-1,4-benzoxazine (2.72 g, 12.5 mmol) was dissolved in N,N-dimethylformamide (20 ml) and a solution of sodium nitrite (949 mg, 13.8 mmol) in water (3.0 ml) was added at 0° C. Then, 5 N hydrochloric acid (6.0 ml) was added at 0° C. The reaction mixture was stirred at 0° C. for 1 h, then partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate and the combined organic layers were washed with brine, dried over sodium sulfate and concentrated. The obtained residue was dissolved in diethyl ether (50 ml), and lithium aluminum hydride in tetrahydrofuran (1.0 M; 9.51 ml, 9.51 mmol) was added at 0° C. The reaction mixture was stirred at 0° C. for 1 h, then quenched with ice water. Ethyl acetate was added to the mixture and the mixture was filtered through a plug of Celite, and the filter cake washed with ethyl acetate. The filtrate was partitioned and the aqueous layer extracted with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated. The residue was purified by flash column chromatography eluting with 0-17% (v/v) ethyl acetate in heptane to afford (R)-4-amino-3-cyclohexyl-3,4-dihydro-2H-1,4-benzoxazine (1.47 g, 6.33 mmol).

reactant | (R)-3-cyclohexyl-3,4-dihydro-2H-1,4-benzoxazine | 12.5 mmol, 2.72 g | C1(CCCCC1)[C@@H]1COC2=C(N1)C=CC=C2 | C14H19NO
reactant | sodium nitrite | 13.8 mmol, 949 mg | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 5 N, 6.0 ml | Cl | ClH
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 9.51 mmol, 1.0 M, 9.51 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 3.0 ml | O | H2O
product | (R)-4-amino-3-cyclohexyl-3,4-dihydro-2H-1,4-benzoxazine | 6.33 mmol, 1.47 g | NN1[C@@H](COC2=C1C=CC=C2)C2CCCCC2 | C14H20N2O
